US09315490B2
51b) Methyl 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate
Potassium tert-butylate (4.41 g, 39.36 mmol) and 5-bromo-2-chloro-pyrimidine (5.0 g, 26.2 mmol) were added to a solution of methyl 3-(methylthio)-1H-indole-6-carboxylate (5.8 g, 26.2 mmol) in DMF (60 mL). The resulting mixture was heated at 120° C. for 16 h, then cooled and poured onto ice-cold water (100 mL). The mixture was extracted with MTBE (3×50 mL) and the combined organic layers were dried over sodium sulfate and evaporated. The crude material was purified by column chromatography [100-200 mesh silica; ethyl acetate/hexane=1:9]. White solid. Yield: 6.0 g (61% of theory). HPLC-MS (method 5): Rt=4.15 min; m/z [M+H]+=379

reactant | Potassium tert-butylate | 39.36 mmol, 4.41 g | CC(C)(C)[O-].[K+]
reactant | 5-bromo-2-chloro-pyrimidine | 26.2 mmol, 5.0 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | methyl 3-(methylthio)-1H-indole-6-carboxylate | 26.2 mmol, 5.8 g | CSC1=CNC2=CC(=CC=C12)C(=O)OC | C11H11NO2S
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | Methyl 1-(5-bromopyrimidin-2-yl)-3-(methylthio)-1H-indole-6-carboxylate | BrC=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)OC)SC | C15H12BrN3O2S
